US09079836B2
Into THF (85 mL), 2,6-difluoro-4-propylphenol obtained in (1-2) in Example 1 (17.2 g), 3,5-difluorobenzyl alcohol (17.2 g), triphenylphosphine (28.9 g) were dissolved, and the product was cooled to −10° C. DIAD (21.2 g) was added thereto at a rate which did not allow the internal temperature to exceed 15° C., and the product was stirred for 3 hours at room temperature. Then, 5 mL of water was added thereto, the solvent was distilled off under reduced pressure, hexane (300 mL) was added thereto, and the product was stirred. The precipitate was removed by filtration, the filtrate was washed with an aqueous solution of 50% methanol (200 mL) and a saturated salt solution in sequence, and sodium sulfate was added thereto for dehydration. The solvent was distilled off under reduced pressure, and the product was purified by silica gel column chromatography, thereby yielding a slightly yellow liquid that what 1,3-difluoro-5-[(2,6-difluoro-4-propylphenyloxy)methyl]benzene (19.1 g).

reactant | 2,6-difluoro-4-propylphenol | FC1=C(C(=CC(=C1)CCC)F)O | C9H10F2O
reactant | 3,5-difluorobenzyl alcohol | 17.2 g | FC=1C=C(CO)C=C(C1)F | C7H6F2O
reactant | triphenylphosphine | 28.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 21.2 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | water | 5 mL | O | H2O
solvent | THF | 85 mL | C1CCOC1 | C4H8O
product | 1,3-difluoro-5-[(2,6-difluoro-4-propylphenyloxy)methyl]benzene | 19.1 g | FC1=CC(=CC(=C1)COC1=C(C=C(C=C1F)CCC)F)F | C16H14F4O
